US07705034B2
To a suspension of 6-methyl-1H-indole-3-carbaldehyde (0.96 g, Lit. 5) in methanol (15 ml) was added at 22° C. acetic acid (1.7 ml) and a solution of methylamine in tetrahydrofurane (2 M, 12.0 ml). After stirring for 1 h, sodium cyanoborohydride (0.76 g) was added in 5 portions and stirring was continued for 2 h. The mixture was evaporated and the residue partitioned between aqueous hydrochloric acid (1 N) and dichloromethane. The pH of the aqueous layer was adjusted to 14 using sodium hydroxide followed by extraction with dichloromethane. The organic layer was dried and evaporated to give crude methyl-(6-methyl-1H-indol-3-ylmethyl)-amine.

reactant | 6-methyl-1H-indole-3-carbaldehyde | 0.96 g | CC1=CC=C2C(=CNC2=C1)C=O | C10H9NO
reactant | acetic acid | 1.7 ml | C(C)(=O)O | C2H4O2
reactant | methylamine | CN | CH5N
reactant | sodium cyanoborohydride | 0.76 g | C(#N)[BH3-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofurane | 2 M, 12.0 ml | O1CCCC1 | C4H8O
product | methyl-(6-methyl-1H-indol-3-ylmethyl)-amine | CNCC1=CNC2=CC(=CC=C12)C | C11H14N2
